US04723016
The procedure of Example 1 was followed using perfluoro-2-methyl-3-oxahexanoyl fluoride (16.6 g, 50 mmol), sodium trimethylsilanolate (5.6 g, 50 mmol), dry o-dichlorobenzene (200 mL), and 1 h at room temperature followed by rapid heating to 150°. Sodium perfluoro-2-methyl-3-oxahexanoate (13.6 g, 77% yield) was isolated as a white solid: The 19F NMR data were the same as reported in Example 15.

reactant | perfluoro-2-methyl-3-oxahexanoyl fluoride | 50 mmol, 16.6 g | FC(C(=O)F)(OC(C(C(F)(F)F)(F)F)(F)F)C(F)(F)F | C6F12O2
reactant | sodium trimethylsilanolate | 50 mmol, 5.6 g | C[Si]([O-])(C)C.[Na+]
solvent | o-dichlorobenzene | 200 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Sodium perfluoro-2-methyl-3-oxahexanoate | 13.6 g, 77% yield | FC(C(=O)[O-])(OC(C(C(F)(F)F)(F)F)(F)F)C(F)(F)F.[Na+] | InChI=1S/C6HF11O3.Na/c7-2(1(18)19,4(10,11)12)20-6(16,17)3(8,9)5(13,14)15;/h(H,18,19);/q;+1/p-1
